US05070089
Methyl 4-(1,4-benzoquinonylmethyl)-1-piperazinecarbodithioate (Com. No. 110)
In a mixture of 6.8 ml of 1-N hydrochloric acid and 6.8 ml of methanol was dissolved 680 mg of methyl 4-(2,5-dihydroxybenzyl)-1-piperazinecarbodithioate. The resulting solution was chilled with ice, and to this was dropwise added a solution of 1.24 g (5.3 mmol.) of FeCl3.6H2O in 4.3 ml of water for 15 min. To this was further added 25 ml of methanol. To thus obtained homogeneous solution was again added a solution of 2.2 g of FeCl3.6H2O in 10 ml of water. The mixture was then stirred for 10 min. and placed under reduced pressure to distill off methanol. To the residue was added 50 ml of chloroform, and to this was added a saturated sodium hydrogen carbonate to adjust pH of the mixture to 7. Insolubles were removed by filtration. The organic solvent portion was taken out, washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was then purified by silica gel column chromatography to give 234 mg of the desired compound as a yellow powder, m.p. 115°-116° C. (decomp.), yield 38.9%.

reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 6.8 ml | CO | CH4O
reactant | methyl 4-(2,5-dihydroxybenzyl)-1-piperazinecarbodithioate | 680 mg | OC1=C(CN2CCN(CC2)C(=S)SC)C=C(C=C1)O | C13H18N2O2S2
reactant | methanol | 25 ml | CO | CH4O
solvent | water | 4.3 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | Methyl 4-(1,4-benzoquinonylmethyl)-1-piperazinecarbodithioate | 234 mg, yield 38.9% | C1(C(=CC(C=C1)=O)CN1CCN(CC1)C(=S)SC)=O | C13H16N2O2S2
